US07993633B2
A 1 L reaction flask was charged with (R)-1-cyclohexylethanol (300 g, synthesized as above), butyric anhydride (600 g), and p-toluene sulphonic acid (0.4 g), and heated at 30-40° C. for 12 hours. The reaction mixture was then transferred into a separatory funnel and titrated with 20% NaOH to become basic followed by washing in 200 mL water. The resulted organic layer was distilled at 5-10 mmHg to provide (R)-1-cyclohexylethyl butyrate (402 g) (optical rotation: [α]D−0.11°; optical purity: 82.2% ee ).

reactant | (R)-1-cyclohexylethanol | 300 g | C1(CCCCC1)[C@@H](C)O | C8H16O
reactant | butyric anhydride | 600 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | NaOH | [OH-].[Na+]
catalyst | p-toluene sulphonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (R)-1-cyclohexylethyl butyrate | 402 g | C(CCC)(=O)O[C@H](C)C1CCCCC1 | C12H22O2
